US05747498
(6-Chloro-7-(2-methoxyethylsulfanyl)-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride
6-Chloro-7-(2-methoxyethylsulfanyl)-quinazolin-4-one (200 mg, 0.739 mmol), triphenylphosphine (427 mg, 1.63 mmol) and 0.7 mL of carbon tetrachloride were refluxed in 4 ml of 1,2-dichloroethane for 4 hours, concentrated in vacuo to a residue, diluted with 4 mL of isopropyl alcohol and 3-ethynylaniline (129 mg, 1.104 mmol) and refluxed for 16 hours. The hot reaction mixture was filtered to isolate crude product which was column chromatographed on silica gel eluted with 5% methanol in chloroform. Fractions containing the pure product were concentrated in vacuo to afford the title product as a solid; 23 mg (8.4%); mp 230°-232° C.

reactant | 6-Chloro-7-(2-methoxyethylsulfanyl)-quinazolin-4-one | 0.739 mmol, 200 mg | ClC=1C=C2C(NC=NC2=CC1SCCOC)=O | C11H11ClN2O2S
reactant | triphenylphosphine | 1.63 mmol, 427 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.7 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynylaniline | 1.104 mmol, 129 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | isopropyl alcohol | 4 mL | C(C)(C)O | C3H8O
product | (6-Chloro-7-(2-methoxyethylsulfanyl)-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.ClC=1C=C2C(=NC=NC2=CC1SCCOC)NC1=CC(=CC=C1)C#C | InChI=1S/C19H16ClN3OS.ClH/c1-3-13-5-4-6-14(9-13)23-19-15-10-16(20)18(25-8-7-24-2)11-17(15)21-12-22-19;/h1,4-6,9-12H,7-8H2,2H3,(H,21,22,23);1H
